US08017809B2
Bis(4,4′-(phenyl-N-methylaminoethoxyboryl)benzyl) ether
The entitled compound (8 mg) was obtained by allowing 20 mg of bis(4,4′-(phenylhydroxyboryl)benzyl) ether and 7.3 mg of N-methylaminoethanol to act in 0.7 mL of ethanol at room temperature.

reactant | bis(4,4′-(phenylhydroxyboryl)benzyl) ether | 20 mg | C1(=CC=CC=C1)B(O)C(C1=CC=CC=C1)OC(C1=CC=CC=C1)B(O)C1=CC=CC=C1 | C26H24B2O3
reactant | N-methylaminoethanol | 7.3 mg | CNC(C)O | C3H9NO
solvent | ethanol | 0.7 mL | C(C)O | C2H6O
product | Bis(4,4′-(phenyl-N-methylaminoethoxyboryl)benzyl) ether | C1(=CC=CC=C1)B(OCCNC)C(C1=CC=CC=C1)OC(C1=CC=CC=C1)B(OCCNC)C1=CC=CC=C1 | C32H38B2N2O3
